US09227949B2
Step 3. Synthesis of 5-(2-methoxycarbonylpropyl)thiophene-2-carboxylic acid tert-butyl ester
5-[(1E)-2-(methoxycarbonyl)-prop-1-en-1-yl]thiophene-2-carboxylic acid tert-butyl ester (13.77 g, 0.049 mol) was dissolved in ethyl acetate (60 mL), methanol (20 mL), and chloroform (10 mL), palladium hydroxide (2.8 g) was added, and the mixture was stirred at room temperature overnight under a hydrogen atmosphere. After completion of the reaction, palladium hydroxide was removed by celite filtration, and the solvent was evaporated under reduced pressure to give the title compound (13.14 g, 0.046 mol, 94%).

reactant | 5-[(1E)-2-(methoxycarbonyl)-prop-1-en-1-yl]thiophene-2-carboxylic acid tert-butyl ester | 0.049 mol, 13.77 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)\C=C(/C)\C(=O)OC | C14H18O4S
reactant | methanol | 20 mL | CO | CH4O
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 2.8 g | [OH-].[Pd+2].[OH-]
product | 5-(2-methoxycarbonylpropyl)thiophene-2-carboxylic acid tert-butyl ester | 0.046 mol, 13.14 g, 94% | C(C)(C)(C)OC(=O)C=1SC(=CC1)CC(C)C(=O)OC | C14H20O4S
